US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[2-(2-methoxyethoxy)ethoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 4 ml of 2-(2-methoxyethoxy)ethanol was stirred at room temperature and under nitrogen for 45 minutes with 240 mg of a 1.6% solution of KOH in 2-(2-methoxyethoxy)ethanol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. It was then isolated on a silica gel plate using ether, which elutes the allyl alcohol to the top of the plate (the plate was developed several times), followed by chloroform-methanol 9:1 which elutes the product. This procedure gives 72 mg (58%) of the desired compound, having a melting point of 102°-104° C. and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | 2-(2-methoxyethoxy)ethanol | 4 ml | COCCOCCO | C5H12O3
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ether | CCOCC | C4H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-[2-(2-methoxyethoxy)ethoxy]-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 72 mg, 58% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCOCCOC)C)=O)CC1C2N1)OC | InChI=1S/C19H26N2O7.CH3NO2/c1-10-15(23)14-13(16(24)17(10)28-7-6-27-5-4-25-2)11(9-22)19(26-3)18-12(20-18)8-21(14)19;2-1(3)4/h11-12,18,20,22H,4-9H2,1-3H3;2H2,(H,3,4)
